US04673746
E-3-chloro-2'-fluoro-2-hydroxy4-methoxybenzophenone oxime (18.1 g) is warmed at 60° C. for 30 minutes with 9 ml of acetic anhydride. The reaction mixture is distributed between ether and 10% NaHCO3 and washed with 10% NaHCO3 until the washes remained basic. Drying, evaporation and trituration with hexane gives E-3-chloro-2'-fluoro-2-hydroxy-4-methoxybenzophenone O-acetyl oxime, mp 125°-128° C.

reactant | E-3-chloro-2'-fluoro-2-hydroxy4-methoxybenzophenone oxime | 18.1 g | ClC=1C(=C(\C(\C2=C(C=CC=C2)F)=N/O)C=CC1OC)O | C14H11ClFNO3
reactant | acetic anhydride | 9 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ether | CCOCC | C4H10O
product | E-3-chloro-2'-fluoro-2-hydroxy-4-methoxybenzophenone O-acetyl oxime | C(C)(=O)O\N=C(/C1=C(C(=C(C=C1)OC)Cl)O)\C1=C(C=CC=C1)F | C16H13ClFNO4
